US05922880
A mixture of 0.5 g of 3-(2,6-dichloro-4-(benzyloxy)phenoxy)-1-propylalcohol thus obtained, 0.1 g of an oily mixture containing 60% sodium hydride, and 3 ml of N,N-dimethylformamide was stirred at room temperature for 1 hour. Then, 0.3 g of 2-chloro-5-trifluoromethylpyridine was added to this mixture, followed by heating to 100° C. After stirring continued for 1 hour, the mixture was poured into 50 m of ice-water, and extracted with toluene at a total volume of 50 ml. The combined toluene layer was successively washed with diluted hydrochloric acid and aqueous sodium bicarbonate solution, dried with magnesium sulfate, and concentrated. The residue was silica gel chromatography, which afforded 0.5 g of 1-benzyloxy-3,5-dichloro-4-[3-(5-trifluoromethylpyridin-2-yloxy)propyloxy]benzene (67% yield).

reactant | 3-(2,6-dichloro-4-(benzyloxy)phenoxy)-1-propylalcohol | 0.5 g | ClC1=C(OCCCO)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C16H16Cl2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-5-trifluoromethylpyridine | 0.3 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-benzyloxy-3,5-dichloro-4-[3-(5-trifluoromethylpyridin-2-yloxy)propyloxy]benzene | 0.5 g, 67% yield | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)Cl)OCCCOC1=NC=C(C=C1)C(F)(F)F)Cl | C22H18Cl2F3NO3
